US06906074B2
To a solution of (2R)-3-{3,5-bis(trifluoromethyl)benzyloxy}-2-tert-butoxycarbonylaminopropionic acid (76.6 g, 176 mmol), N-methoxy-N-methylamine hydrochloride (18.53 g, 190 mmol) and triethylamine (25.6 mL, 190 mmol) in CH2Cl2 (400 mL) was added WSC.HCl (36.4 g, 190 mmol). The mixture was stirred at room temperature for 20 hours, washed with water and saturated brine in order. The organic extract was dried over sodium sulfate anhydride. Sodium sulfate was filtered off and the solvent was removed by evaporation from the filtrate under reduced pressure to give (2R)-3-(3,5-bis(trifluoromethyl)benzyloxy)-2-tert-butoxycarbonylamino-N-methoxy-N-methylpropionamide (76.4 g, 92%) as a pale brown oil.

reactant | (2R)-3-{3,5-bis(trifluoromethyl)benzyloxy}-2-tert-butoxycarbonylaminopropionic acid | 176 mmol, 76.6 g | FC(C=1C=C(COC[C@H](C(=O)O)NC(=O)OC(C)(C)C)C=C(C1)C(F)(F)F)(F)F | C17H19F6NO5
reactant | N-methoxy-N-methylamine hydrochloride | 190 mmol, 18.53 g | Cl.CONC
reactant | triethylamine | 190 mmol, 25.6 mL | C(C)N(CC)CC | C6H15N
reactant | WSC.HCl | 190 mmol, 36.4 g | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | (2R)-3-(3,5-bis(trifluoromethyl)benzyloxy)-2-tert-butoxycarbonylamino-N-methoxy-N-methylpropionamide | 76.4 g, 92% | FC(C=1C=C(COC[C@H](C(=O)N(C)OC)NC(=O)OC(C)(C)C)C=C(C1)C(F)(F)F)(F)F | C19H24F6N2O5
